US07462620B2
{2-[2-(2,3-Difluorophenyl)ethyl]-4-oxo-4H-thieno[3,2-d]pyrimidin-1yl}-acetic acid
Ethyl 2-(2-[2-(2,3-difluorophenyl)ethyl]-4-oxo-4H-thieno[3,2-d]pyrimidin-1-yl)acetate (Int B57) (375 mg) as a suspension in dioxan (2-3 ml) was treated with 0.5M solution of aqueous sodium hydroxide (1.98 ml) at room temperature. After 1h the solution was concentrated to a small volume and acidified with 2M hydrochloric acid. The precipitate was filtered off, washed with water and dried in vacuo at 40° C. overnight. The title compound was obtained as a white solid (308 mgs, 89%); 1H-NMR (DMSO) δ 3.09 (4H, m), 5.19 (2H, s), 7.05-7.31 (3H, m), 7.49 (1H, d, J5.2 Hz) and 8.14 (1H, d, J5.2 Hz). (APCI+) Found (M+1)=351, C16H12F2N2O3S requires 350.

reactant | Ethyl 2-(2-[2-(2,3-difluorophenyl)ethyl]-4-oxo-4H-thieno[3,2-d]pyrimidin-1-yl)acetate | 375 mg | FC1=C(C=CC=C1F)CCC1=NC(C2=C(N1CC(=O)OCC)C=CS2)=O | C18H16F2N2O3S
reactant | sodium hydroxide | 1.98 ml | [OH-].[Na+]
solvent | dioxan | 2-3 ml | O1CCOCC1 | C4H8O2
product | {2-[2-(2,3-Difluorophenyl)ethyl]-4-oxo-4H-thieno[3,2-d]pyrimidin-1yl}-acetic acid | FC1=C(C=CC=C1F)CCC1=NC(C2=C(N1CC(=O)O)C=CS2)=O | C16H12F2N2O3S
